US04786654
Preparation of (3-bromo-4-fluorobenzyl)-(2,2,3,3-tetramethylcyclopropylmethyl)ether (starting material of formula IV)
A solution of 20 g of 2,2,3,3-tetramethylcyclopropylmethanol and 41.9 g of 3-bromo-4-fluorobenzyl bromide in 100 ml of a 1:1 mixture of toluene/dimethylformamide is added dropwise at 0°-10° C. to 8.2 g of sodium hydride (50% dispersion in mineral oil) in 200 ml of a 1:1 mixture of toluene/dimethylformamide. When the reaction has subsided, the batch is stirred for 16 hours at room temperature and, after the dropwise addition of a saturated solution of ammonium chloride, extracted with toluene. The combined toluene extracts are washed with saturated sodium chloride solution, dried over MgSO4 and concentrated by rotary evaporation. The crude product is chromatographed through a column of silica gel (elution with a 5:1 mixture of hexane/ether), affording the title compound in the form of a clear oil with a refractive index of nD24 =1.5128.

reactant | 2,2,3,3-tetramethylcyclopropylmethanol | 20 g | CC1(C(C1(C)C)CO)C | C8H16O
reactant | 3-bromo-4-fluorobenzyl bromide | 41.9 g | BrC=1C=C(CBr)C=CC1F | C7H5Br2F
reactant | sodium hydride | 8.2 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene dimethylformamide | C1(=CC=CC=C1)C.CN(C=O)C
product | (3-bromo-4-fluorobenzyl)-(2,2,3,3-tetramethylcyclopropylmethyl)ether | BrC=1C=C(COCC2C(C2(C)C)(C)C)C=CC1F | C15H20BrFO
